US09107916B2
A. 2-[5-[(3-fluoro-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (3-fluoro-4-methylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 2.28 (3H, s), 5.19 (2H, s), 5.72 (1H, d, J=2.0 Hz), 7.18-7.20 (1H, m), 7.07-7.11 (2H, m), 7.41 (1H, dd, J=1.2, 4.8 Hz), 7.56 (1H, d, J=1.6 Hz), 8.03 (1H, s), 8.71 (1H, d, J=4.8 Hz). [M+H] Calc'd for C17H13FN4O, 309. Found, 309.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (3-fluoro-4-methylphenyl)methanol | FC=1C=C(C=CC1C)CO | C8H9FO
product | 2-[5-[(3-fluoro-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | FC=1C=C(C=CC1C)COC1=CC=NN1C1=NC=CC(=C1)C#N | C17H13FN4O
